US05646173
A solution of 20.2 g of 6-chloro-1-indanone, 25 ml of 3-buten-2-ol and 200 mg of p-toluenesulfonic acid in 25 ml of 2,2-dimethoxypropane and 200 ml of anhydrous toluene was boiled under reflux for 16 hours. The reaction mixture was subsequently concentrated in a vacuum and purified by column chromatography on silica gel (hexane/diethyl ether 5:1). 10.3 g (39%) of (RS)-2-(2-buten-1-yl)-6-chloro-1-indanone were obtained as a yellow oil.

reactant | 6-chloro-1-indanone | 20.2 g | ClC1=CC=C2CCC(C2=C1)=O | C9H7ClO
reactant | 3-buten-2-ol | 25 ml | CC(C=C)O | C4H8O
reactant | p-toluenesulfonic acid | 200 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | 2,2-dimethoxypropane | 25 ml | COC(C)(C)OC | C5H12O2
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | (RS)-2-(2-buten-1-yl)-6-chloro-1-indanone | 10.3 g, 39% | C(C=CC)C1C(C2=CC(=CC=C2C1)Cl)=O | C13H13ClO
